US05998398
a) tert-Butyl N-(3-cyclopenten-1-yl)carbamate
To a solution of 3-cyclopentene-1-carboxylic acid (J.-P. Depres and A. E. Greene, J. Org. Chem. 1984, 49:928-931; 29.71 g, 0.261 mole), triethylamine (36.4 mL) in t-butanol (1 L) was added diphenylphosphoryl azide, Aldrich, 97%, 74.0 g, 0.261 mmole). The solution was maintained at 60--C. for 4 hours. Cuprous chloride (1.3 g) was added and stirring continued at ambient temperature for 18 hours. Volatiles were evaporated and the residue was dissolved in methylene chloride (1250 mL) and washed with 10 % aqueous sodium carbonate (2×250 mL) and dried (magnesium sulfate). Volatiles were evaporated and the residue was chromatographed on a silica gel column. Title compound was eluted with chloroform as white crystals, from hexanes (22.63 g, 47%), m.p. 68-70° C.

reactant | 3-cyclopentene-1-carboxylic acid | C1(CC=CC1)C(=O)O | C6H8O2
reactant | triethylamine | 36.4 mL | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | t-butanol | 1 L | C(C)(C)(C)O | C4H10O
product | tert-Butyl N-(3-cyclopenten-1-yl)carbamate | C1(CC=CC1)NC(OC(C)(C)C)=O | C10H17NO2
